US08455477B2
Into a 3,000 ml roundbottom flask, was placed ethanol (479. g, 10.4 mol), followed by concentrated sulfuric acid (417 g, 4.17 mol). To the mixture was added 2-(1-benzylpyrrolidin-2-yl)acetonitrile (139. g, 695. mmol). The resulting solution was heated to reflux for 4 hours. After cooling to ambient temperature, the solution was diluted with 3,000 ml of water. Adjustment of the pH to 9 was accomplished by the addition of solid sodium carbonate. The resulting solution was extracted three times with 2,000 ml of ethyl acetate and the combined organic layers were concentrated to afford ethyl 2-(1-benzylpyrrolidin-2-yl)acetate, which was used without additional purification.

reactant | ethanol | 10.4 mol | C(C)O | C2H6O
reactant | sulfuric acid | 4.17 mol, 417 g | S(O)(O)(=O)=O | H2O4S
reactant | 2-(1-benzylpyrrolidin-2-yl)acetonitrile | C(C1=CC=CC=C1)N1C(CCC1)CC#N | C13H16N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 3,000 ml | O | H2O
product | ethyl 2-(1-benzylpyrrolidin-2-yl)acetate | C(C1=CC=CC=C1)N1C(CCC1)CC(=O)OCC | C15H21NO2
